US08053431B2
4-(2-Hydroxyethylamino)-3-nitro-benzoic Acid Methyl Ester
4-Fluoro-3-nitro-benzoic acid methyl ester (3 g, 15.64 mmol) was dissolved in DMF (20 ml) and DIPEA (5.8 g, 18.07 mmol) was added. 2-Aminoethanol (1.1 g, 18.07 mmol) was then added slowly by maintaining the temperature <20° C. Stirring continued at ambient temperature for 1 h. After checking the completion of reaction by TLC, the reaction mixture was added onto the ice cold water. The yellow solid which separated out was filtered, washed with cold water and finally washed with hexane affording 3.3 g (92%) of 4-(2-hydroxyethylamino)-3-nitro-benzoic acid methyl ester. 1H NMR (300 MHz, CDCl3) δ 3.5 (q, 2H), 3.7 (q, 2H), 3.9 (s, 3H), 5.1 (t, 1H), 7.2 (d, 1H), 8.0 (d, 1H), 8.6 (s, 1H).

reactant | 4-Fluoro-3-nitro-benzoic acid methyl ester | 15.64 mmol, 3 g | COC(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C8H6FNO4
reactant | DIPEA | 18.07 mmol, 5.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Aminoethanol | 18.07 mmol, 1.1 g | NCCO | C2H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(2-Hydroxyethylamino)-3-nitro-benzoic Acid Methyl Ester | COC(C1=CC(=C(C=C1)NCCO)[N+](=O)[O-])=O | C10H12N2O5
